US08138377B2
C. Synthesis of 1-naphthalen-2-yl-hex-5-en-1-yn-3-ol
A solution of 3-(naphthalen-2-yl)propiolaldehyde (3.97 g, 22.0 mmol) in tetrahydrofuran (250 mL) was added to a solution of allyl magnesium bromide (33.1 mL, 33.0 mmol, 1.5 eq.) at 0° C. over 25 min. Stirring was continued overnight and the reaction was carefully quenched with water (50 mL) at 0° C. tert-butyl methyl ether (100 mL) was added, and the layers were stirred and allowed to separate. The aqueous phase was re-extracted with tert-butyl methyl ether (50 mL) and the combined organic layers were dried over sodium sulphate and filtered. The filtrate was concentrated in vacuo. Purification by silica gel chromatography using 1:6 ethyl acetate/petrol as the eluting solvent to afford the desired compound (2.30 g, 47%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 2.58-2.65 (2H, m, CH2), 4.71 (1H, t, J=6.3 Hz, CH), 5.24-5.31 (2H, m, CH2), 5.95-6.06 (1H, m, CH), 7.46-7.51 (3H, m, ArH), 7.76-7.83 (3H, m, ArH), 7.96 (1H, s, ArH).

reactant | 3-(naphthalen-2-yl)propiolaldehyde | 22.0 mmol, 3.97 g | C1=C(C=CC2=CC=CC=C12)C#CC=O | C13H8O
reactant | allyl magnesium bromide | 33.0 mmol, 33.1 mL, 1.5 eq. | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1-naphthalen-2-yl-hex-5-en-1-yn-3-ol | 2.30 g, 47% | C1=C(C=CC2=CC=CC=C12)C#CC(CC=C)O | C16H14O
